US03947582
To a solution of 7.1 gm. of 2-(4-ethylphenyl) benzoxazole in 125 cc. of carbon tetrachloride is added 6.2 gm. of N-bromosuccinimide and 50 mg. of benzoyl peroxide. The mixture is refluxed for about one half hour at which time the N-bromosuccinimide was consumed. Filtration followed by concentration of the filtrate gives 2-(4-[1-bromoethyl]phenyl)benzoxazole, m.p. 128°-131°C.

reactant | 2-(4-ethylphenyl) benzoxazole | C(C)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C15H13NO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(4-[1-bromoethyl]phenyl)benzoxazole | BrC(C)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C15H12BrNO
